US06525042B1
2-tert-Butoxycarbonyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline
In methanol (100 ml), 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (7.87 g) was dissolved, followed by the addition of triethylamine (4.67 ml) and di-tert-butyl dicarbonate (13.95 g). The resulting mixture was stirred at room temperature for 3 hours. To the residue obtained by concentrating the reaction mixture under reduced pressure, ethyl acetate was added. The resulting mixture was washed with 1N hydrochloric acid and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=10:1˜3:1), whereby the title compound (9.96 g, 94%) was obtained.

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 7.87 g | Cl.OC=1C=C2CCNCC2=CC1
reactant | triethylamine | 4.67 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 13.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 100 ml | CO | CH4O
product | 2-tert-Butoxycarbonyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
